US07781431B2
Step 6: 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
A solution (0.07 M) of methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in THF/MeOH (1:1) was treated with aqueous NaOH (2 N solution, 15 eq.). The mixture was heated to reflux for 90 min then concentrated and acidified to pH 1 with aqueous HCl (6 N) and extracted with AcOEt. The combined organic phase was washed with brine then dried and concentrated to give the title compound (93%) as a solid.

reactant | methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.07 M | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C20H21NO2S
reactant | NaOH | 2 N, 15 eq. | [OH-].[Na+]
solvent | THF MeOH | C1CCOC1.CO
product | 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 93% | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)O | C19H19NO2S
